US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.176 mmol) and 6-quinoxalinecarbonyl chloride (68 mg, 0.35 mmol). The final trituration (diethyl ether/hexane) and filtration gave 48 mg (38%) of 18-(6-quinoxalinecarbonyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 98.5% pure (HPLC), MS m/z 723 (M−H)−, HRMS: calcd. 725.2969 and found 725.2947 (M+H)+, mp 158-160° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.176 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 6-quinoxalinecarbonyl chloride | 0.35 mmol, 68 mg | N1=CC=NC2=CC(=CC=C12)C(=O)Cl | C9H5ClN2O
product | 18-(6-quinoxalinecarbonyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 48 mg, 38% | N1=CC=NC2=CC(=CC=C12)C(=O)OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C35H44N6O9S
